US05457134
Synthesis of 3-[(3,4,4-trifluoro-1-oxo-3-butenyl)amino]benzoic acid (Compound 128)
2.2 g (0.0139 mole) 3,4,4-trifluoro-3-butenoyl chloride is added to a mixture of 3-aminobenzoic acid (1.37 g, 0.01 mole), sodium bicarbonate (0.84 g, 0.01 mole), water (20 mL) and dichloromethane (20 mL) with stirring at 0° C. After stirring for 15 min at room temperature, the mixture is diluted with ethyl acetate (100 mL) and water (50 mL). The organic layer is washed with 2N HCl and brine, and dried. The residue obtained after evaporation of the solvent is triturated with dry ether and filtered to give 1.8 g of the title compound as a light pink solid, a 69% yield. m.p. 252°-255° C.

reactant | 3,4,4-trifluoro-3-butenoyl chloride | 0.0139 mole, 2.2 g | FC(CC(=O)Cl)=C(F)F | C4H2ClF3O
reactant | 3-aminobenzoic acid | 0.01 mole, 1.37 g | NC=1C=C(C(=O)O)C=CC1 | C7H7NO2
reactant | sodium bicarbonate | 0.01 mole, 0.84 g | C([O-])(O)=O.[Na+]
reactant | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 50 mL | O | H2O
solvent | water | 20 mL | O | H2O
product | 3-[(3,4,4-trifluoro-1-oxo-3-butenyl)amino]benzoic acid | 1.8 g, 69% yield | FC(CC(=O)NC=1C=C(C(=O)O)C=CC1)=C(F)F | C11H8F3NO3
